US07691882B2
1-Benzyloxy-3-((E)-2-nitro-vinyl)-benzene
A mixture of 3-benzyloxy-benzaldehyde (5.16 g, 24.3 mmol) described in Manufacturing Example 61-1-1, nitromethane (2.16 mL, 48.6 mmol), ammonium acetate (2.81 g, 36.5 mmol) and acetic acid (50 mL) was stirred for 6 hours at 100° C. This mixture was cooled to room temperature, concentrated under a reduced pressure, and diluted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=4:1-2:1-1:1) to obtain the title compound (5.50 g, 89%).

reactant | 3-benzyloxy-benzaldehyde | 24.3 mmol, 5.16 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
reactant | nitromethane | 48.6 mmol, 2.16 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 36.5 mmol, 2.81 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 1-Benzyloxy-3-((E)-2-nitro-vinyl)-benzene | 5.50 g, 89% | C(C1=CC=CC=C1)OC1=CC(=CC=C1)\C=C\[N+](=O)[O-] | C15H13NO3
